US05674886
A catalytic amount of Raney nickel was added to 50 ml of an ethanol solution containing 3.74 g of 4-[N-(4-bromobenzyl)-N-(4-nitrophenyl) amino]-4H-1,2,4-triazole, and the mixture was stirred for about 2 hours in the presence of hydrogen gas at room temperature. After the catalyst was removed by filtration, the resulting filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give 1.1 g of 4-[N-(4-aminophenyl)-N-(4-bromobenzyl)amino]-4H-1,2,4-triazole from the chloroform/methanol (50:1) eluate.

reactant | 4-[N-(4-bromobenzyl)-N-(4-nitrophenyl) amino]-4H-1,2,4-triazole | 3.74 g | BrC1=CC=C(CN(C2=CC=C(C=C2)[N+](=O)[O-])N2C=NN=C2)C=C1 | C15H12BrN5O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[N-(4-aminophenyl)-N-(4-bromobenzyl)amino]-4H-1,2,4-triazole | 1.1 g | NC1=CC=C(C=C1)N(CC1=CC=C(C=C1)Br)N1C=NN=C1 | C15H14BrN5
